US06001867
(2-All-3-yl-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone
Tin tetrachloride (2.83 mL, 24.12 mmol) was added dropwise over a 10 minute period to a stirred solution of 2-all-3-yl-benzo[b]thiophene (3.51 g, 20.1 mmol), anisoyl chloride (3.61 g, 21.1 mmol) and dichloromethane (70 mL) under a dry nitrogen atmosphere. After 5 h., the mixture was warmed up and stirred at 0° C. for 1 h. The reaction mixture was added to water and extracted with ethyl ether. The ethyl ether extract was washed with sat. aq. sodium bicarbonate and brine. Silica gel (100 mL) was added. Solvents were removed and the silica adsorbate was flash chromatographed (eluent 92:8 petroleum ether:ethyl acetate) to provide the title compound as an oil (4.42 g, 71 %): NMR (CDCl3); δ 7.88-7.76 (multiplet with overlapping doublet at 7.84, J=9 Hz, 3H), 7.50-7.44 (m, 1H), 7.34-7.24 (m, 2H), 6.94 (d, J=9 Hz, 2H), 6.00-5.85 (m, 1H), 5.20-5.13 (m, 2H), 3.90 (s, 3H), 3.62 (d, J=6 Hz, 2H); MS (EI): [M+] 308 (50%); Anal. Calc. for C19H16O2S: C, 74.00, H, 5.23, N, 0.00. Found: C, 73.16, H, 5.13, N, 0.09.

reactant | Tin tetrachloride | 24.12 mmol, 2.83 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-all-3-yl-benzo[b]thiophene | 20.1 mmol, 3.51 g | CC=CC1=CC2=C(S1)C=CC=C2 | C11H10S
reactant | anisoyl chloride | 21.1 mmol, 3.61 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2-All-3-yl-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone | 4.42 g, 71 % | CC=CC1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)OC | C19H16O2S
